US05288701
2,2,3-Trimethyl-cyclopent-1-yl-acetaldehyde
A three liter autoclave with a stirrer is charged with 830 g of campholenic aldehyde and 56 g of catalyst Pd(5%)/C. Hydrogen is introduced until the pressure reaches 30 bars. The mixture is heated up to 80° C. with stirring for five hours. The calculated amount of hydrogen is now absorbed. The catalyst is separated by filtration and washed with ethanol. The solvent is removed by vacuum evaporation and 815 g of crude saturated aldehyde are obtained (purity: 95%, GC). The vacuum distillation of the crude through a Widmer column gives 763 g of pure product (purity 95%); bp20 85° C.; nD20 : 1,4553;

reactant | campholenic aldehyde | 830 g | CC1=CCC(C1(C)C)CC=O | C10H16O
reactant | Hydrogen | [H][H] | H2
catalyst | Pd | [Pd] | Pd
product | 2,2,3-Trimethyl-cyclopent-1-yl-acetaldehyde | 763 g | CC1(C(CCC1C)CC=O)C | C10H18O
